US08212041B2
(S)-tert-Butyl 3-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamido)pyrrolidine-1-carboxylate (0.050 g, 0.096 mmol) was dissolved in methanol (1.5 mL) then added concentrated hydrochloric acid (0.400 ml, 4.8 mmol). The reaction mixture was stirred at room temperature for 5 hours then concentrated under vacuum. The remaining solid was dissolved in methanol (1 mL) then added potassium carbonate (0.062 g, 0.45 mmol). The reaction mixture was stirred at room temperature for 1 hour and concentrated under vacuum. The sample was purified by flash chromatography eluting with 10%-15% 7N ammonia in methanol/dichloromethane to afford (S)-3-((7-methoxyquinolin-4-yloxy)methyl)-N-(pyrrolidin-3-yl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamide (0.039 g, 97% yield) as a pale yellow solid.

reactant | (S)-tert-Butyl 3-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamido)pyrrolidine-1-carboxylate | 0.096 mmol, 0.050 g | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C(=O)N[C@@H]2CN(CC2)C(=O)OC(C)(C)C | C27H30N6O5
reactant | hydrochloric acid | 4.8 mmol, 0.400 ml | Cl | ClH
reactant | potassium carbonate | 0.45 mmol, 0.062 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 1.5 mL | CO | CH4O
product | (S)-3-((7-methoxyquinolin-4-yloxy)methyl)-N-(pyrrolidin-3-yl)-[1,2,4]triazolo[4,3-a]pyridine-6-carboxamide | 0.039 g, 97% yield | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C(=O)N[C@@H]2CNCC2 | C22H22N6O3
